US05869516
1d) 3-Methyl-4-(2-propoxyphenylaminomethylene)-1-phenyl-4,5-dihydro-5-pyrazolone
2 g of 3-methyl-4-aminomethylene-1-phenyl-4,5-dihydro-5-pyrazolone and 1.6 g of 2-propoxyaniline trifluoroacetate are added to ethanol and boiled under reflux for 1.5 hours. The reaction solution is concentrated. The reaction product is then separated by chromatography on silica gel using a solvent mixture consisting of methyl butyl ketone/hexane 4:1 as eluent and is recrystallized from a methyl butyl ketone/hexane mixture.

reactant | 3-methyl-4-aminomethylene-1-phenyl-4,5-dihydro-5-pyrazolone | 2 g | CC1=NN(C(C1=CN)=O)C1=CC=CC=C1 | C11H11N3O
reactant | 2-propoxyaniline trifluoroacetate | 1.6 g | FC(C(=O)O)(F)F.C(CC)OC1=C(N)C=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 3-Methyl-4-(2-propoxyphenylaminomethylene)-1-phenyl-4,5-dihydro-5-pyrazolone | CC1=NN(C(C1=CNC1=C(C=CC=C1)OCCC)=O)C1=CC=CC=C1 | C20H21N3O2
